US08563760B2
(5Z,8Z,11Z,14Z)-Icosa-5,8,11,14-tetraenyl-4-methylbenzenesulfonate
(5Z,8Z,11Z,14Z)-Icosa-5,8,11,14-tetraen-1-ol (0.58 g, 1.997 mmol) was dissolved in pyridine (8 mL) and to this solution p-toluenesulfonyl chloride (0.762 g, 3.99 mmol) was added at 0° C. (ice-bath) and the reaction mixture was stirred under nitrogen for 4 h as the temperature was slowly allowed to rise to room temperature. The solvent was then removed under reduced pressure and the crude was purified on silica gel column chromatography using 5%-10% ethyl/hexane giving the title product as a clear oil (0.551 g, 62%). 1H NMR (CDCl3): δ 7.79 (d, 2H, J=8.2 Hz), δ 7.34 (d, 2H, J=8.2 Hz), 5.35 (m, 8H), 4.02 (t, 2H, J=6.4 Hz), 2.79 (m, 6H), 2.44 (s, 3H), 2.03 (m, 4H), 1.64 (m, 2H), 1.43-1.25 (m, 8H), 1.04 (t, 3H, J=6.8 Hz). m/z (ESI) 467.27 (M++Na).

reactant | (5Z,8Z,11Z,14Z)-Icosa-5,8,11,14-tetraen-1-ol | 1.997 mmol, 0.58 g | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)O | C20H34O
reactant | p-toluenesulfonyl chloride | 3.99 mmol, 0.762 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | (5Z,8Z,11Z,14Z)-Icosa-5,8,11,14-tetraenyl-4-methylbenzenesulfonate | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)OS(=O)(=O)C1=CC=C(C=C1)C | C27H40O3S
